US06403573B1
3.2 g of 6-chloro-7-hydroxy-1H-inden-1-one in 16.8 ml of water and 67.2 ml of concentrated aqueous hydrochloric acid were stirred and heated with freshly prepared zinc amalgame (from 26.88 g of zinc wool) in an oil bath at 120° C. for 16 hours. The reaction mixture was cooled, decanted and treated with ethylacetate and dichloromethane. The organic layer was evaporated in vacuo. The residue was purified by an acid/base separation yielding 2.08 g of 5-chloro-2,3-dihydro-1H-inden-4-ol, M.S. (C.I.) (M/Z): 169 [M+H]+.

reactant | 6-chloro-7-hydroxy-1H-inden-1-one | 3.2 g | ClC1=CC=C2C=CC(C2=C1O)=O | C9H5ClO2
solvent | water | 16.8 ml | O | H2O
solvent | hydrochloric acid | 67.2 ml | Cl | ClH
catalyst | zinc | [Zn] | Zn
catalyst | zinc | 26.88 g | [Zn] | Zn
product | 5-chloro-2,3-dihydro-1H-inden-4-ol | 2.08 g | ClC1=C(C=2CCCC2C=C1)O | C9H9ClO
